US07652022B2
N-(4-(4-Ethylaminopyrimidin-6-yl-oxy)-phenyl)-N′[(R)-5-bromo-indan-2-yl]-urea (Method B)
A solution of triphosgene (117 mg, 0.393 mmol) in CH2Cl2 (12 ml) under N2-atmosphere is cooled by an ice bath. A solution of [(R)-5-bromo-indan-2-yl-amine (250 mg, 1.178 mmol; preparation see Adv. Synth. Catal. 2001, 343, 461) and NEt3 (164 μl; 1.177 mmol) in CH2Cl2 (10 ml) is added dropwise, the dropping funnel rinsed with CH2Cl2 (2 ml) and the resulting suspension stirred for 60 min at rt. Then a solution of 4-(4-ethylaminopyrimidin-6-yl-oxy)-aniline (258 mg, 1.12 mmol) and NEt3 (164 μl; 1.177 mmol) in CH2Cl2 (10 ml) is added dropwise and the dropping funnel rinsed with CH2Cl2 (2 ml). A brown solution is formed, which is stirred for 16 h at rt. SiO2 is then added to the resulting mixture. After concentration in vacuo, the powder is put on top of a MPLC column (SiO2). Eluation with SiO2/AcOEt 4:1→AcOEt, partial concentration and filtration of the crystallized material yields the title compound: m.p.: 247° C.; 1H-NMR (DMSO-d6): 8.33 (s, 1H), 8.06 (s, 1H), 7.43 (s, 1H), 7.36 (d, 2H), 7.30 (m, 1H), 7.26 (t, 1H), 7.19 (d, 1H), 6.96 (d, 2H), 6.43 (d, 1H), 5.63 (s, 1H), 4.40 (m, 1H), 3.2 (m, 4H), 2.75 (AB×d, 2H), 1.07 (t, 3H); Anal.: CHNBr.

reactant | triphosgene | 0.393 mmol, 117 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | (R)-5-bromo-indan-2-yl-amine | 1.178 mmol, 250 mg | BrC=1C=C2C[C@@H](CC2=CC1)N | C9H10BrN
reactant | NEt3 | 1.177 mmol, 164 μl | CCN(CC)CC | C6H15N
reactant | 4-(4-ethylaminopyrimidin-6-yl-oxy)-aniline | 1.12 mmol, 258 mg | C(C)NC1=NC=NC(=C1)OC1=CC=C(N)C=C1 | C12H14N4O
reactant | NEt3 | 1.177 mmol, 164 μl | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(4-(4-Ethylaminopyrimidin-6-yl-oxy)-phenyl)-N′[(R)-5-bromo-indan-2-yl]-urea | C(C)NC1=NC=NC(=C1)OC1=CC=C(C=C1)NC(=O)N[C@@H]1CC2=CC=C(C=C2C1)Br | C22H22BrN5O2
